US07119205B2
5-Acetyl-N-methoxy-N-methylthiophene-2-carboxamide
A solution of 5-acetylthiophene-2-carboxylic acid (5 g, 0.0294 mol) in DMA (80 mL) was treated with EDCI (8.47 g, 0.044 mol), HOBt (3.97 g, 0.044 mol), N,O-dimethylhydroxylamine hydrochloride (5.7 g, 0.059 mol) and 4-methylmorpholine (16.14 mL, 0.147 mol). The resulting thick mixture was stirred at 25° C. for 16 h. Water (250 mL) was added and the mixture was extracted with 1:1 EtOAc/ether (2×200 mL). The combined extracts were washed with 1N HCl (150 mL), water (3×200 mL), saturated NaHCO3 (150 mL), and brine (150 mL); dried (Na2SO4); filtered; and evaporated to afford 5.4 g (86%) of the desired product. 1H NMR (300 MHz, DMSO-D6) δ ppm 2.58 (s, 3H) 3.31 (s, 3H) 3.78 (s, 3H) 7.85 (d, J=4.04 Hz, 1H) 7.92 (d, J=4.04 Hz, 1H); MS (DCI) 214 m/z (M+H)+.

reactant | 5-acetylthiophene-2-carboxylic acid | 0.0294 mol, 5 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | EDCI | 0.044 mol, 8.47 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.044 mol, 3.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.059 mol, 5.7 g | Cl.CNOC
reactant | 4-methylmorpholine | 0.147 mol, 16.14 mL | CN1CCOCC1 | C5H11NO
solvent | DMA | 80 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | 250 mL | O | H2O
product | 5-Acetyl-N-methoxy-N-methylthiophene-2-carboxamide | 5.4 g, 86% | C(C)(=O)C1=CC=C(S1)C(=O)N(C)OC | C9H11NO3S
